US09085555B2
C. 1-(5,6-Dimethoxy-1H-indazol-3-yl)ethanone
The title compound was prepared in a similar manner as described by G. Luo et al., J. Org. Chem. 2006, 71, 5392-5395: To a solution of 1-(5,6-dimethoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-3-yl]ethanone (200 mg, 0.57 mmol) in THF (6 mL) was added a 1M solution in THF of TBAF (2.85 mL, 2.85 mmol), and the mixture was heated to reflux for 16 h. The reaction mixture was then diluted with EtOAc and successively washed with water and brine, then dried (Phase separator) and evaporated. The crude product was purified by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, flow: 40 mL/min, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) to give after lyophilization of the purified fractions the title compound. MS (LC-MS): 221 [M+H]+; tR (HPLC conditions k): 2.61 min.

reactant | 1-(5,6-dimethoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-3-yl]ethanone | 0.57 mmol, 200 mg | COC1=CC2=C(N(N=C2C=C1OC)COCC[Si](C)(C)C)C(C)=O | C17H26N2O4Si
reactant | TBAF | 2.85 mmol, 2.85 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5,6-Dimethoxy-1H-indazol-3-yl)ethanone | COC=1C=C2C(=NNC2=CC1OC)C(C)=O | C11H12N2O3
